US08114881B2
c) Methyl 6-[1-(6-cyanopyridin-3-yl)-1H-pyrazol-5-yl]-5-methyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxylate
Methyl 6-(3,3-diethoxyprop-1-ynyl)-5-methyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxylate (0.073 g, 0.17 mmol) and 5-hydrazinopyridine-2-carbonitrile trifluoroacetate (0.050 g, 0.20 mmol) in dioxane (3 ml) were placed in a vial. 2M HCl (0.188 ml) was added and the mixture was stirred at 55° C. for 15 min. After cooling, NaHCO3 (0.048 g) was added and the mixture was extracted with DCM and water. The combined organic phases were washed with water, brine, dried (Na2SO4) and evaporated. The residue was dissolved in acetic acid (10 ml) and the vial was sealed. The solution was stirred at 90° C. for 10 h. After evaporation, the residue was purified by preparative HPLC to give 0.023 g (28%) of the title compound.

reactant | Methyl 6-(3,3-diethoxyprop-1-ynyl)-5-methyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxylate | 0.17 mmol, 0.073 g | C(C)OC(C#CC1=C(N(C(C(=N1)C(=O)OC)=O)C1=CC(=CC=C1)C(F)(F)F)C)OCC | C21H21F3N2O5
reactant | 5-hydrazinopyridine-2-carbonitrile trifluoroacetate | 0.20 mmol, 0.050 g | FC(C(=O)O)(F)F.N(N)C=1C=CC(=NC1)C#N
reactant | HCl | 2M, 0.188 ml | Cl | ClH
reactant | NaHCO3 | 0.048 g | C(=O)(O)[O-].[Na+]
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | Methyl 6-[1-(6-cyanopyridin-3-yl)-1H-pyrazol-5-yl]-5-methyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxylate | 0.023 g, 28% | C(#N)C1=CC=C(C=N1)N1N=CC=C1C1=C(N(C(C(=N1)C(=O)OC)=O)C1=CC(=CC=C1)C(F)(F)F)C | C23H15F3N6O3
